US06593322B1
C. 1-({4-[6-(Dimethylamino)(3-pyridyl)]phenyl}mehyl)-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline
The title compound was prepared as described in Example 135, using 1-(4-bromobenzyl)-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline (0.60 g, 0.12 mmol) and 2-(dimethylamino)-5-(tributylstannyl)pyridine to provide the title compound (0.581 g, 90% yield): 1H NMR (CDCl3) 8.42 (dd, 1H), 7.68 (dd, 1H), 7.32-7.45 (m, 7H), 7.06 (d, 2H), 6.91 (m, 2H), 6.72-6.80 (m, 5H), 6.58 (d, 1H), 5.04 (s, 2H), 4.77 (t, 1H), 3.62 (m, 1H), 3.48 (m, 1H), 3.19 (dd, 1H), 3.13 (s, 6H), 2.96 (m, 2H), 2.72 (dt, 1H); ES-MS m/z 544 [M+H]+.

reactant | 1-(4-bromobenzyl)-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline | 0.12 mmol, 0.60 g | BrC1=CC=C(CC2N(CCC3=CC(=CC=C23)OCC2=CC=CC=C2)C2=CC=C(C=C2)F)C=C1 | C29H25BrFNO
reactant | 2-(dimethylamino)-5-(tributylstannyl)pyridine | CN(C1=NC=C(C=C1)[Sn](CCCC)(CCCC)CCCC)C
product | 1-({4-[6-(Dimethylamino)(3-pyridyl)]phenyl}mehyl)-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline | 0.581 g, 90% yield | CN(C1=CC=C(C=N1)C1=CC=C(C=C1)CC1N(CCC2=CC(=CC=C12)OCC1=CC=CC=C1)C1=CC=C(C=C1)F)C | C36H34FN3O
